US07473698B2
Methyl 4-(4-Fluorophenyl)-6-Methyl-2-Oxo-3-[({4-OXO-4-[3-(4-Piperidinyl)Anilino]Butyl}Amino)Carbonyl]-1,2,3,4-Tetrahydro-5-Pyrimidinecarboxylate
Into a solution of methyl 3-{[(4-{3-[1-(tert-butoxycarbonyl)-4-piperidinyl]anilino}-4-oxobutyl)amino]carbonyl}-4-(4-fluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate (40.9 mg, 0.0628 mmol) in dichloromethane (2.00 mL) at 0° C. was slowly added trifluoroacetic acid (71.6 mg, 0.628 mmol). The reaction mixture was stirred at room temperature for 10 min and concentrated in vacuo. The residue was dissolved in iso-PrOH/CHCl3 (1:3, 10 mL) and basified to pH 11 with 10% KOH solution, washed with H2O, followed by brine. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the desired product (34.6 mg, 99%): 1H NMR (400 MHz, CDCl3) δ 8.00 (m, 3H), 7.67 (s, 1H), 7.35-7.27 (m, 4H), 7.04-6.98 (m, 3H), 6.65 (s, 1H), 3.72 (s, 3H), 3.5-3.48 (m, 2H), 3.20-3.11 (m, 3H), 2.42 (t, 2H, J=7.5 Hz), 2.36 (s, 3H), 2.13-2.06 (m, 2H), 1.97-1.88 (m, 4H); ESMS m/e: 552.3 (M+H)+.

reactant | methyl 3-{[(4-{3-[1-(tert-butoxycarbonyl)-4-piperidinyl]anilino}-4-oxobutyl)amino]carbonyl}-4-(4-fluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | 0.0628 mmol, 40.9 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C=C(NC(CCCNC(=O)N2C(NC(=C(C2C2=CC=C(C=C2)F)C(=O)OC)C)=O)=O)C=CC1 | C34H42FN5O7
reactant | trifluoroacetic acid | 0.628 mmol, 71.6 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.00 mL | ClCCl | CH2Cl2
product | Methyl 4-(4-Fluorophenyl)-6-Methyl-2-Oxo-3-[({4-OXO-4-[3-(4-Piperidinyl)Anilino]Butyl}Amino)Carbonyl]-1,2,3,4-Tetrahydro-5-Pyrimidinecarboxylate | 34.6 mg, 99% | FC1=CC=C(C=C1)C1N(C(NC(=C1C(=O)OC)C)=O)C(=O)NCCCC(NC1=CC(=CC=C1)C1CCNCC1)=O | C29H34FN5O5
